* aux/utility/power-filter — board supply ripple-rejection RC low-pass corner (LIBRARY generic)
* Generic representative values (NO netlist_bind by design — there is no netlist behind a
* library block). Per spec §Board-Level Filtering, each rail is: [ferrite bead]──┬──10µF──┬──100nF
* to GND. For ripple/audio frequencies the ferrite bead presents a series resistance R_s and the
* bulk 10µF shunt cap forms a 1st-order RC low-pass to GND, attenuating supply ripple above the
* corner f = 1/(2π·R_s·C). This is the genuinely-checkable transfer law of the filter.
* (The bead is a frequency-dependent impedance — ~600Ω at 100MHz — but at the low/audio ripple
* band it behaves as a small series resistance; we model that with a representative R_s so the
* RC corner is a falsifiable number, per the GUIDE's "state honestly what's checkable" guidance.)
*
* Representative pick for a clean round corner: C = 10µF (the spec's bulk cap), R_s chosen so
* f = 1.000 kHz exactly -> R_s = 1/(2π·f·C) = 1/(2π·1000·10µF) = 15.915 Ω. (A real ferrite bead
* + plane resistance in the tens-of-mΩ-to-ohms range; 15.9Ω is a representative documentary R_s
* picked to land a round corner — the LAW f=1/(2πRC) is what is under test, not the bead's exact Z.)
* Ideal model justification: Rs+Cint is exactly the 1st-order RC the bulk cap forms with the
* series element; no bead Spice model is needed because the corner is an RC property.
.param C=10u
.param fpick=1000
.param Rs={1/(2*3.141592653589793*fpick*C)}   ; 15.915 Ω -> RC corner at 1.000 kHz

Vac ain 0 AC 1 DC 0        ; supply ripple source (1V AC into the rail node)
Rser ain out {Rs}         ; ferrite-bead series resistance R_s
Cbulk out 0 {C}           ; 10µF bulk bypass to GND -> 1st-order RC low-pass

.control
  ac dec 100 10 100k
  meas ac fc when vdb(out)=-3.01     ; -3dB corner of the RC low-pass = 1/(2*pi*Rs*C)
.endc
.end
